US05872115
A solution of 4-aminomethyl-1-diphenylmethylpiperidine (2.5 g, 9.15 mmol) in dichloromethane (10 ml) was added to a suspension of isatoic anhydride (1.0 g, 6.1 mmol) in dichloromethane (25 ml) at room temperature. The reaction mixture was stirred for 1 hour and then poured into chloroform and washed with 5% NaHCO3 solution. The organic layer was concentrated. The residue was dissolved in dichloromethane (25 ml) and poured into hexane (400 ml) to give 2-amino-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide as precipitate (100%): mp 153°-154° C.

reactant | 4-aminomethyl-1-diphenylmethylpiperidine | 9.15 mmol, 2.5 g | NCC1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C19H24N2
reactant | isatoic anhydride | 6.1 mmol, 1.0 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 2-amino-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide | NC1=C(C(=O)NCC2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1 | C26H29N3O
